US08202866B2
2-(4-Bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyric acid
The oily residue of 2-(4-bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyronitrile was hydrolyzed by refluxing for 2 h with concentrated H2SO4 and water (38:28) (4 mL). The mixture was neutralized with Na2CO3, then MeOH (20 mL) was added. The solid was filtered and washed with MeOH (3×10 mL). The combined methanol solution was evaporated to give an oil product. MS: calc'd 326 (MH+), exp 326 (MH+).

reactant | 2-(4-bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyronitrile | BrC1=CC=C(C=C1)C(C#N)CCC1N(CCC1)C | C15H19BrN2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | 4 mL | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(4-Bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyric acid | BrC1=CC=C(C=C1)C(C(=O)O)CCC1N(CCC1)C | C15H20BrNO2
